US04783461
3,4-dihydro-4-oxo-1-phthalazin-acetonitrile (126 g) is suspended in anhydrous pyridine (1300 ml) under anhydrous conditions. P2S5 (230 g) is added portionwise to this suspension at room temperature and with stirring, then the mixture is slowly heated to reflux temperature and kept at this temperature for about 2 h. Pyridine is then evaporated under reduced pressure and the residue is poured into water (3 l). The solid which separates is recovered by filtration, thoroughly wshed first with water and then with cold dilutes aqueous ammonia. The recovered solid is oven-dried, yielding 4-mercapto-phthalazin-acetonitrile (110 g).

reactant | 3,4-dihydro-4-oxo-1-phthalazin-acetonitrile | 126 g | O=C1NN=C(C2=CC=CC=C12)CC#N | C10H7N3O
reactant | P2S5 | 230 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 1300 ml | N1=CC=CC=C1 | C5H5N
product | 4-mercapto-phthalazin-acetonitrile | 110 g | SC1=NN=C(C2=CC=CC=C12)CC#N | C10H7N3S
